US05534518
A stirred solution of 22.4 grams (0.106 mole) of 5-fluoro-2-methylcarbonylamino-3-methylnitrobenzene, 100 mL of concentrated hydrochloric acid, and 100 mL of ethanol was heated at reflux for about 17 hours. The reaction mixture was cooled and poured into 500 grams of ice. The mixture was made basic with aqueous 50% sodium hydroxide. The resultant solid was collected by filtration and was thoroughly washed with water. The solid was dried at about 60° C. under vacuum, yielding 17.0 grams of 4-fluoro-2-nitro-6-methylaniline, mp 111°-113° C. The NMR spectrum was consistent with the proposed structure. The reaction was repeated to obtain more product.

reactant | 5-fluoro-2-methylcarbonylamino-3-methylnitrobenzene | 0.106 mole, 22.4 grams | FC=1C=C(C(=C(C1)[N+](=O)[O-])NC(=O)C)C | C9H9FN2O3
reactant | hydrochloric acid | 100 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-fluoro-2-nitro-6-methylaniline | 17.0 grams | FC1=CC(=C(N)C(=C1)C)[N+](=O)[O-] | C7H7FN2O2
